US06153652
Synthesis of N-[(3-chlorophenyl)acetyl]alanine iso-butyl ester
Following General Procedure G' above and using 3-chlorophenylacetic acid (Aldrich) and alanine iso-butyl ester (prepared following General Procedure J' above), the title compound was prepared. The reaction was monitored by tlc on silica gel.

reactant | 3-chlorophenylacetic acid | ClC=1C=C(C=CC1)CC(=O)O | C8H7ClO2
reactant | alanine iso-butyl ester | C(C(C)C)OC([C@@H](N)C)=O | C7H15NO2
product | N-[(3-chlorophenyl)acetyl]alanine iso-butyl ester | C(C(C)C)OC([C@@H](NC(CC1=CC(=CC=C1)Cl)=O)C)=O | C15H20ClNO3
